US08217066B2
Step 4: 1-{4′-[4-(1-Hydroxy-3,3-dimethyl-4-phenyl-butyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester:
1-[4′-(4-Bromo-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester (0.100 g, 0.243 mmol) was dissolved in THF (0.25M) and cooled to −78° C. n-Butyllithium (2.5M in hexanes, 0.1068 mL, 0.267 mmol) was slowly added and the reaction stirred for 30 minutes. 3,3-Dimethyl-4-phenyl-butyraldehyde (0.047 g, 0.254 mmol) was added and the reaction was stirred at −78° C. for 30 minutes then warmed to room temperature and continued stirring for 1 hour. The reaction mixture was submitted to standard aqueous workup to afford the title compound, which was used in the next step without further purification.

reactant | 1-[4′-(4-Bromo-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | 0.243 mmol, 0.100 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)Br | C22H20BrNO3
reactant | n-Butyllithium | 0.267 mmol, 2.5M, 0.1068 mL | C(CCC)[Li]
reactant | 3,3-Dimethyl-4-phenyl-butyraldehyde | 0.254 mmol, 0.047 g | CC(CC=O)(CC1=CC=CC=C1)C | C12H16O
solvent | THF | 0.25M | C1CCOC1 | C4H8O
product | 1-{4′-[4-(1-Hydroxy-3,3-dimethyl-4-phenyl-butyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(CC(CC1=CC=CC=C1)(C)C)O | C34H37NO4
